US04254116
5,5-Dimethyl-8-(2-heptyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-8-(2-heptyl)-10-hydroxy-5H[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-8-(2-heptyl)-10-hydroxy-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCCC)O)C=2C1=CC=NC2)C | C21H27NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(2-heptyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCCC)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C30H42N2O3.ClH/c1-5-6-8-12-22(2)23-19-26(34-28(33)13-11-18-32-16-9-7-10-17-32)29-24-21-31-15-14-25(24)30(3,4)35-27(29)20-23;/h14-15,19-22H,5-13,16-18H2,1-4H3;1H
